US05631373
Similarly, the reaction of 7-chloro-6-fluoro-5-nitro-1,4-dihydroquinoxaline-2,3-dione with sodium methoxide gave 7-chloro-6-methoxy-5-nitroquinoxaline-2,3-dione, and with ethanethiol gave 7-chloro-6-ethylthio-5-nitroquinoxaline-2,3-dione.

reactant | 7-chloro-6-fluoro-5-nitro-1,4-dihydroquinoxaline-2,3-dione | ClC1=C(C(=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-])F | C8H3ClFN3O4
reactant | sodium methoxide | C[O-].[Na+]
product | 7-chloro-6-methoxy-5-nitroquinoxaline-2,3-dione | ClC=1C(=C(C2=NC(C(N=C2C1)=O)=O)[N+](=O)[O-])OC | C9H4ClN3O5
